US08168567B2
(A-1) N′-{4-[(3-(tert-butyl)-1,2,4-thiadiazol-5-yl)oxy]-2,5-dimethylphenyl}-N-ethyl-N-methylimidoformamide;
(A-2) N′-{4-[(3-(tert-butyl)-1,2,4-thiadiazol-5-yl)oxy]-2,5-dimethylphenyl}-N-isopropyl-N-methylimidoformamide; (A-3) 4-[(3-(tert-butyl)-1,2,4-thiadiazol-5-yl)oxy]-2,5-dimethyl-N-[(1E)-piperidin-1-ylmethylene]aniline; (A-4) 4-[(3-(tert-butyl)-1,2,4-thiadiazol-5-yl)oxy]-2-methyl-N-[(1E)-piperidin-1-ylmethylene]-5-(trifluoromethyl)aniline; (A-5) N′-{4-[(3-(tert-butyl)-1,2,4-thiadiazol-5-yl)oxy]-2-methyl-5-(trifluoromethyl)phenyl}-N-ethyl-N-methylimidoformamide; (A-6) N′-{4-[(3-(tert-butyl)-1,2,4-thiadiazol-5-yl)oxy]-2-methyl-5-(trifluoromethyl)phenyl}-N-isopropyl-N-methylimidoformamide; (A-7) N′-{4-[(3-(tert-butyl)-1,2,4-thiadiazol-5-yl)oxy]-5-chloro-2-methylphenyl}-N-isopropyl-N-methylimidoformamide; (A-8) N′-{4-[(3-(tert-butyl)-1,2,4-thiadiazol-5-yl)oxy]-5-chloro-2-methylphenyl}-N-ethyl-N-methylimidoformamide; (A-9) 4-[(3-(tert-butyl)-1,2,4-thiadiazol-5-yl)oxy]-5-chloro-2-methyl-N-[(1E)-piperidin-1-ylmethylene]aniline.

reactant | N′-{4-[(3-(tert-butyl)-1,2,4-thiadiazol-5-yl)oxy]-2,5-dimethylphenyl}-N-isopropyl-N-methylimidoformamide | C(C)(C)(C)C1=NSC(=N1)OC1=CC(=C(C=C1C)N=CN(C)C(C)C)C | C19H28N4OS
reactant | 4-[(3-(tert-butyl)-1,2,4-thiadiazol-5-yl)oxy]-2,5-dimethyl-N-[(1E)-piperidin-1-ylmethylene]aniline | C(C)(C)(C)C1=NSC(=N1)OC1=CC(=C(/N=C/N2CCCCC2)C=C1C)C | C20H28N4OS
reactant | 4-[(3-(tert-butyl)-1,2,4-thiadiazol-5-yl)oxy]-2-methyl-N-[(1E)-piperidin-1-ylmethylene]-5-(trifluoromethyl)aniline | C(C)(C)(C)C1=NSC(=N1)OC1=CC(=C(/N=C/N2CCCCC2)C=C1C(F)(F)F)C | C20H25F3N4OS
reactant | N′-{4-[(3-(tert-butyl)-1,2,4-thiadiazol-5-yl)oxy]-2-methyl-5-(trifluoromethyl)phenyl}-N-ethyl-N-methylimidoformamide | C(C)(C)(C)C1=NSC(=N1)OC1=CC(=C(C=C1C(F)(F)F)N=CN(C)CC)C | C18H23F3N4OS
reactant | N′-{4-[(3-(tert-butyl)-1,2,4-thiadiazol-5-yl)oxy]-2-methyl-5-(trifluoromethyl)phenyl}-N-isopropyl-N-methylimidoformamide | C(C)(C)(C)C1=NSC(=N1)OC1=CC(=C(C=C1C(F)(F)F)N=CN(C)C(C)C)C | C19H25F3N4OS
reactant | N′-{4-[(3-(tert-butyl)-1,2,4-thiadiazol-5-yl)oxy]-5-chloro-2-methylphenyl}-N-isopropyl-N-methylimidoformamide | C(C)(C)(C)C1=NSC(=N1)OC1=CC(=C(C=C1Cl)N=CN(C)C(C)C)C | C18H25ClN4OS
reactant | N′-{4-[(3-(tert-butyl)-1,2,4-thiadiazol-5-yl)oxy]-5-chloro-2-methylphenyl}-N-ethyl-N-methylimidoformamide | C(C)(C)(C)C1=NSC(=N1)OC1=CC(=C(C=C1Cl)N=CN(C)CC)C | C17H23ClN4OS
reactant | 4-[(3-(tert-butyl)-1,2,4-thiadiazol-5-yl)oxy]-5-chloro-2-methyl-N-[(1E)-piperidin-1-ylmethylene]aniline | C(C)(C)(C)C1=NSC(=N1)OC1=CC(=C(/N=C/N2CCCCC2)C=C1Cl)C | C19H25ClN4OS
product | N′-{4-[(3-(tert-butyl)-1,2,4-thiadiazol-5-yl)oxy]-2,5-dimethylphenyl}-N-ethyl-N-methylimidoformamide | C(C)(C)(C)C1=NSC(=N1)OC1=CC(=C(C=C1C)N=CN(C)CC)C | C18H26N4OS
